US09328106B2
6-(2-Methyl-4-nitro-pyrazol-3-yl)oxepan-3-one (53 mg, 0.23 mmol), ammonium acetate (219 mg, 2.76 mmol), sodium cyanoborohydride (38 mg, 0.57 mmol) and a few pettets of 4A molecular seives were dissolved in methanol (2 mL). Acetic acid (35 mg, 0.57 mmol) was added and the mixture was stirred at RT under N2 atmosphere for three days. The reaction was quenched with sat. sodium bicarbonate and extracted with DCM (3×). Combined organic layers were dried (MgSO4) and the solvent removed under reduced pressure. The residue was dissolved in DCM (5 mL) and di-tert-butyl-dicarbonate (63 mg, 0.69 mmol) and DIPEA (0.067 mL, 0.38 mmol) were added. The mixture was stirred at room temperature overnight and then purified via silica gel chromatography (0-100% EtOAc/heptane) to afford tert-butyl N-[6-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-3-yl]carbamate (53 mg, 81%).

reactant | 6-(2-Methyl-4-nitro-pyrazol-3-yl)oxepan-3-one | 0.23 mmol, 53 mg | CN1N=CC(=C1C1CCC(COC1)=O)[N+](=O)[O-] | C10H13N3O4
reactant | ammonium acetate | 2.76 mmol, 219 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.57 mmol, 38 mg | C(#N)[BH3-].[Na+]
reactant | Acetic acid | 0.57 mmol, 35 mg | C(C)(=O)O | C2H4O2
reactant | di-tert-butyl-dicarbonate | 0.69 mmol, 63 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 0.38 mmol, 0.067 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | methanol | 2 mL | CO | CH4O
product | tert-butyl N-[6-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-3-yl]carbamate | 53 mg, 81% | CN1N=CC(=C1C1CCC(COC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C15H24N4O5
